US04910199
(A) 8-Methyl-6-phenylimidazo[1,2-b]pyridazine
1.2 g of 3-amino-4-methyl-6-phenylpyridazine are added to the filtrate (bromoacetaldehyde solution) and the mixture is stirred for 24 hours at room temperature.

reactant | 3-amino-4-methyl-6-phenylpyridazine | 1.2 g | NC=1N=NC(=CC1C)C1=CC=CC=C1 | C11H11N3
reactant | bromoacetaldehyde | BrCC=O | C2H3BrO
product | 8-Methyl-6-phenylimidazo[1,2-b]pyridazine | CC=1C=2N(N=C(C1)C1=CC=CC=C1)C=CN2 | C13H11N3
